US08614234B2
A mixture of 5-{4-[3-(2-Fluoro-5-methyl-phenylcarbamoyl)-phenoxy]-pyridin-2-yl}-1H-pyrrole-3-carboxylic acid (50 mg, 0.12 mmol), HATU (55 mg, 0.14 mmol) and N,N-diisopropylethylamine (34 mg, 0.26 mmol) in anhydrous DMF (8 ml) was stirred at room temperature for 10 minutes, followed by addition of (S)-3-pyrrolidinol (16 mg, 0.18 mmol). The mixture was stirred for another 10 minutes and poured into 100 ml of water. The precipitates were filtered, washed with water and dried in vacuo to give N-(2-fluoro-5-methylphenyl)-3-[(2-{4-[(3-hydroxypyrrolidin-1-yl)carbonyl]-1H-pyrrol-2-yl}pyridin-4-yl)oxy]benzamide as white solid. Yield: 40 mg, 69%.

reactant | 5-{4-[3-(2-Fluoro-5-methyl-phenylcarbamoyl)-phenoxy]-pyridin-2-yl}-1H-pyrrole-3-carboxylic acid | 0.12 mmol, 50 mg | FC1=C(C=C(C=C1)C)NC(=O)C=1C=C(OC2=CC(=NC=C2)C2=CC(=CN2)C(=O)O)C=CC1 | C24H18FN3O4
reactant | HATU | 0.14 mmol, 55 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.26 mmol, 34 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (S)-3-pyrrolidinol | 0.18 mmol, 16 mg | N1C[C@H](CC1)O | C4H9NO
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
product | N-(2-fluoro-5-methylphenyl)-3-[(2-{4-[(3-hydroxypyrrolidin-1-yl)carbonyl]-1H-pyrrol-2-yl}pyridin-4-yl)oxy]benzamide | FC1=C(C=C(C=C1)C)NC(C1=CC(=CC=C1)OC1=CC(=NC=C1)C=1NC=C(C1)C(=O)N1CC(CC1)O)=O | C28H25FN4O4
